US08334292B1
Step 1: Preparation of tert-butyl 4-((5-bromo-2-chloropyrimidin-4-yloxy)methyl)piperidine-1-carboxylate
Using the procedure of Example 1 Step 1, 5-bromo-2,4-dichloropyrimidine was reacted with tert-butyl 4-(hydroxymethyl)piperidine-1-carboxylate to provide the title compound in 63% yield. 1H NMR (CDCl3, 400 MHz) 8.43 (s, 1H), 4.32 (d, 2H), 4.18 (m, 2H), 2.76 (m, 2H), 2.03 9 m, 1H), 1.80 (m, 2H), 1.46 (s, 9H), 1.34-1.26 (m, 2H); MS (ESI) m/z: Calc: 405.1 (M+). Found. 307.9 (M+-Boc+2).

reactant | 5-bromo-2,4-dichloropyrimidine | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | tert-butyl 4-(hydroxymethyl)piperidine-1-carboxylate | OCC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO3
product | tert-butyl 4-((5-bromo-2-chloropyrimidin-4-yloxy)methyl)piperidine-1-carboxylate | 63% yield | BrC=1C(=NC(=NC1)Cl)OCC1CCN(CC1)C(=O)OC(C)(C)C | C15H21BrClN3O3
